US09315521B2
3,6-dimethyl-2-{[(2,3,6-trichlorophenyl)methyl]sulfanyl}-3,4-dihydropyrimidin-4-one
A mixture of 2-(bromomethyl)-1,3,4-trichlorobenzene (576 mg, 2.1 mmol), 3,6-dimethyl-2-sulfanyl-3,4-dihydropyrimidin-4-one (300 mg, 1.9 mmol), and triethylamine (280 μl, 2.0 mmol) in absolute ethanol (10 mL) was stirred at room temperature overnight. The solvent was evaporated under reduced pressure. The solid product was suspended in water (30 mL). The solid material was recovered by filtration, washed with water (2×10 mL) and hexanes (2×20 mL), and dried in vacuo, affording the title compound (475 mg, 72% yield); 1H NMR (400 MHz, DMSO-d6): δ 2.20 (s, 3H), 3.31 (s, 3H), 4.77 (s, 2H), 6.08 (s, 1H), 7.57 (d, 1H, J=8.8 Hz), 7.68 (d, 1H, J=8.8 Hz); M+350; HPLC purity: 95.8%.

reactant | 2-(bromomethyl)-1,3,4-trichlorobenzene | 2.1 mmol, 576 mg | BrCC1=C(C=CC(=C1Cl)Cl)Cl | C7H4BrCl3
reactant | 3,6-dimethyl-2-sulfanyl-3,4-dihydropyrimidin-4-one | 1.9 mmol, 300 mg | CN1C(=NC(=CC1=O)C)S | C6H8N2OS
reactant | triethylamine | 2.0 mmol, 280 μl | C(C)N(CC)CC | C6H15N
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 3,6-dimethyl-2-{[(2,3,6-trichlorophenyl)methyl]sulfanyl}-3,4-dihydropyrimidin-4-one | 475 mg, 72% yield | CN1C(=NC(=CC1=O)C)SCC1=C(C(=CC=C1Cl)Cl)Cl | C13H11Cl3N2OS
